US05633248
5-Formylamino-4,4-diphenylpentanol
In formic acid (80 ml) was dissolved 5-amino-4,4-diphenylpentanol (10 g) followed by addition of acetic anhydride (13 ml) and the mixture was stirred at room temperature for 4 hours. This reaction mixture was concentrated to dryness and the group was partitioned into chloroform and water. The water layer was made basic by aqueous ammonia and extracted with chloroform. The extract was dried over anhydrous sodium sulfate and concentrated to dryness. The group was dissolved in ethanol (30 ml) and the solution was stirred in 1N-aqueous sodium hydroxide (20 ml) at room temperature for 20 minutes. This reaction mixture was diluted with water and the crystals that separated out were harvested by filtration. This crystal crop was washed serially with water and ethyl acetate to provide the title compound (9 g) as colorless powder.

reactant | 5-amino-4,4-diphenylpentanol | 10 g | NCC(CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H21NO
reactant | acetic anhydride | 13 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 80 ml | C(=O)O | CH2O2
product | 5-Formylamino-4,4-diphenylpentanol | 9 g | C(=O)NCC(CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H21NO2
